US04348399
A solution of 10.0 g. of 4-(4-nitrophenyl)butyric acid in 150 ml. of ethanol containing 50 mg. of a 10% palladium on carbon catalyst is hydrogenated until the uptake of hydrogen ceases. After the system is purged with nitrogen and the solution is filtered through a celite pad, 3 ml. of boron trifluoride etherate is added and the solution is heated to reflux for 10 hours. Upon cooling and evaporation of the ethanol, a colorless residue is obtained. This product is recrystallized from ethanol-hexane and affords ethyl 4-(4-aminophenyl)butyrate.

reactant | 4-(4-nitrophenyl)butyric acid | [N+](=O)([O-])C1=CC=C(C=C1)CCCC(=O)O | C10H11NO4
reactant | hydrogen | [H][H] | H2
reactant | ethanol | 50 mg | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | ethyl 4-(4-aminophenyl)butyrate | NC1=CC=C(C=C1)CCCC(=O)OCC | C12H17NO2
